US04436726
Starting from N-(3-hexadecanoyloxyoctadecanoyl)glycine (2.6 g) prepared by the method described in Example 27 and L-phenylalanine (1.65 g), N-[N-(3-hexadecanoyloxyoctadecanoyl)glycyl]-L-phenylalanine (2.1 g) was obtained as powders according to a similar manner to that of Example 29.

reactant | N-(3-hexadecanoyloxyoctadecanoyl)glycine | 2.6 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCC(=O)O)CCCCCCCCCCCCCCC | C36H69NO5
reactant | L-phenylalanine | 1.65 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | N-[N-(3-hexadecanoyloxyoctadecanoyl)glycyl]-L-phenylalanine | 2.1 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)CCCCCCCCCCCCCCC | C45H78N2O6
